US07851492B2
1-(2,6-dimethoxy-pyridin-3-yl)-3-(3-trifluoromethyl-phenyl)-urea (0.5 g) was suspended in dry dichloromethane (10 ml), BBr3 (0.14 ml) was added and the solution stirred at room temperature. After 5 hours more BBr3 (50 μl) was added and after a further hour the reaction was diluted with more dichloromethane and quenched with ice-water. The mixture was extracted with ethyl acetate, dried over MgSO4, filtered and concentrated to provide a light purple residue. This was preloaded onto silica and chromatographed to provide 1-(2-Hydroxy-6-methoxy-pyridin-3-yl)-3-(3-trifluoromethyl-phenyl)-urea as a white solid (210 mg). Mp.=223-224° C.

reactant | 1-(2,6-dimethoxy-pyridin-3-yl)-3-(3-trifluoromethyl-phenyl)-urea | 0.5 g | COC1=NC(=CC=C1NC(=O)NC1=CC(=CC=C1)C(F)(F)F)OC | C15H14F3N3O3
reactant | BBr3 | 0.14 ml | B(Br)(Br)Br | BBr3
reactant | BBr3 | 50 μl | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(2-Hydroxy-6-methoxy-pyridin-3-yl)-3-(3-trifluoromethyl-phenyl)-urea | 210 mg | OC1=NC(=CC=C1NC(=O)NC1=CC(=CC=C1)C(F)(F)F)OC | C14H12F3N3O3
